US08058313B2
4-((1E)-2-(((E)-4-hydroxy-2,6-dimethoxystyrylsulfonyl)methylsulfonyl)vinyl)-3,5-dimethoxyphenol.
A solution of 4-hydroxy-2,6-dimethoxybenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 62% yield. m.p. 148-150° C.

reactant | 4-hydroxy-2,6-dimethoxybenzaldehyde | 2 mmol | OC1=CC(=C(C=O)C(=C1)OC)OC | C9H10O4
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-((1E)-2-(((E)-4-hydroxy-2,6-dimethoxystyrylsulfonyl)methylsulfonyl)vinyl)-3,5-dimethoxyphenol | 62% yield | OC1=CC(=C(/C=C/S(=O)(=O)CS(=O)(=O)/C=C/C2=C(C=C(C=C2OC)O)OC)C(=C1)OC)OC | C21H24O10S2
